US05399695
10.81 g (0.1 mol) of benzyl alcohol and 31.58 g (0.1 mol) of pyridine hexafluoroantimonate were dissolved in 80 g of acetonitrile and allowed to react at 80° C. for 8 hours. After the completion of the reaction, the mixture was concentrated, and the precipitated white solid was washed with ether and dried to give N-benzylpyridinium hexafluoroantimonate. Yield: 40%.

reactant | benzyl alcohol | 0.1 mol, 10.81 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine hexafluoroantimonate | 0.1 mol, 31.58 g | F[Sb-](F)(F)(F)(F)F.N1=CC=CC=C1
solvent | acetonitrile | 80 g | C(C)#N | C2H3N
product | N-benzylpyridinium hexafluoroantimonate | Yield: 40% | F[Sb-](F)(F)(F)(F)F.C(C1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C12H12N.6FH.Sb/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;;;;;;;/h1-10H,11H2;6*1H;/q+1;;;;;;;+5/p-6
